US04895871
A solution of 15.0 grams (0.0742 mole) of 3,4-difluoromethylenedioxybenzoic acid in 200 mL of diethyl ether was stirred and cooled to 0° C. To this was added one drop of dimethylformamide followed by the dropwise addition of 11.3 grams (0.0890 mole) of oxalyl chloride. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it stirred for 60 hours. After this time the reaction mixture was concentrated under reduced pressure to yield 16.6 grams of 3,4-difluoromethylenedioxybenzoyl chloride.

reactant | 3,4-difluoromethylenedioxybenzoic acid | 0.0742 mole, 15.0 grams | FC=1C2=C(C(=O)O)C=C(C1F)OCO2 | C8H4F2O4
reactant | oxalyl chloride | 0.0890 mole, 11.3 grams | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 3,4-difluoromethylenedioxybenzoyl chloride | 16.6 grams | FC=1C2=C(C(=O)Cl)C=C(C1F)OCO2 | C8H3ClF2O3
